US06251921B1
Preparation of 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl 2-[6-[2-(1-Pyrrolidinyl)ethoxy]pyrid-3-yl]benzo[b]-thiophen-3-yl Ketone Dioxalate
By essentially following the procedure detailed in Example 1, Part C, the title compound was prepared from 5-(benzo[b]thiophen-2-yl)pyrid-2-yl 2-(1-pyrrolidinyl)ethyl ether (Part B) and 4-[2-(1-pyrrolidinyl)-ethoxy]benzoic acid hydrochloride in 30% yield as a solid following flash chromatography (SiO2; 5% MeOH in CHCl3). The free base was converted to the dioxalate salt according to the conditions outlined in Example 1, Part C.

reactant | 5-(benzo[b]thiophen-2-yl)pyrid-2-yl 2-(1-pyrrolidinyl)ethyl ether | N1(CCCC1)CCOC1=NC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C19H20N2OS
reactant | 4-[2-(1-pyrrolidinyl)-ethoxy]benzoic acid hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl 2-[6-[2-(1-Pyrrolidinyl)ethoxy]pyrid-3-yl]benzo[b]-thiophen-3-yl Ketone Dioxalate | 30% yield | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1(CCCC1)CCOC1=CC=C(C=N1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OCCN2CCCC2 | InChI=1S/C32H35N3O3S.2C2H2O4/c36-31(24-9-12-26(13-10-24)37-21-19-34-15-3-4-16-34)30-27-7-1-2-8-28(27)39-32(30)25-11-14-29(33-23-25)38-22-20-35-17-5-6-18-35;2*3-1(4)2(5)6/h1-2,7-14,23H,3-6,15-22H2;2*(H,3,4)(H,5,6)
